US04716169
2-(2-Methoxy-4-methylsulphonyloxy-phenyl)-6-methylsulphonyloxy-imidazo[1,2-b]pyridazine
0.3 g (1.17 mmol) of 2-(2-Methoxy-4-hydroxyphenyl)-5H-imidazo[1,2-b]pyridazin-6-one are dissolved in 10 ml of 1N sodium hydroxide solution. At 20° C., 1.3 g (1.17 mmol) of methanesulphonic acid chloride is added dropwise. By simultaneously adding 2N sodium hydroxide solution the pH is kept at 10-11.

reactant | 2-(2-Methoxy-4-hydroxyphenyl)-5H-imidazo[1,2-b]pyridazin-6-one | 1.17 mmol, 0.3 g | COC1=C(C=CC(=C1)O)C=1N=C2N(NC(C=C2)=O)C1 | C13H11N3O3
reactant | methanesulphonic acid chloride | 1.17 mmol, 1.3 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | sodium hydroxide | 2N | [OH-].[Na+]
product | 2-(2-Methoxy-4-methylsulphonyloxy-phenyl)-6-methylsulphonyloxy-imidazo[1,2-b]pyridazine | COC1=C(C=CC(=C1)OS(=O)(=O)C)C=1N=C2N(N=C(C=C2)OS(=O)(=O)C)C1 | C15H15N3O7S2
